US07951810B2
Step b: [(3aR,4R,6R,6aR)-2,2-dimethyl-6-(6-{[2-(trifluoromethyl)phenyl]ethynyl}-9H-purin-9-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl sulfamate
To a solution of [(3aR,4R,6R,6aR)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl sulfamate (0.200 g, 0.402 mmol) in DMF (7 mL) was added DIPEA (0.176 mL, 1.01 mmol), 1-ethynyl-2-trifluoromethyl-benzene (0.224 mL, 1.61 mmol), CuI (0.0191 g, 0.101 mmol), and Pd(PPh3)2Cl2 (0.0282 g, 0.0402 mmol). The mixture was stirred at r.t. for 50 min, diluted with DCM (25 mL) and washed with saturated aq EDTA.Na2 (3×25 mL). The combined organics were washed with brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified by flash chromatography (15 to 50% EtOAc/DCM) to isolate the title compound (0.185 g, 85%).

reactant | [(3aR,4R,6R,6aR)-6-(6-iodo-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl sulfamate | 0.402 mmol, 0.200 g | S(N)(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)I)(=O)=O | C13H16IN5O6S
reactant | DIPEA | 1.01 mmol, 0.176 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-ethynyl-2-trifluoromethyl-benzene | 1.61 mmol, 0.224 mL | C(#C)C1=C(C=CC=C1)C(F)(F)F | C9H5F3
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.101 mmol, 0.0191 g | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 0.0402 mmol, 0.0282 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [(3aR,4R,6R,6aR)-2,2-dimethyl-6-(6-{[2-(trifluoromethyl)phenyl]ethynyl}-9H-purin-9-yl)tetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl sulfamate | 0.185 g, 85% | S(N)(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)C#CC2=C(C=CC=C2)C(F)(F)F)(=O)=O | C22H20F3N5O6S
